US03988339
Platinum oxide (0.1 g.) in methanol is reduced with hydrogen at atmospheric pressure. 8-Acetamido-7-chloroisoquinoline hydrochloride (1.0 g.) is treated as in Example 11 to give 8-amino-7-chloro-1,2,3,4-tetrahydroisoquinoline hydrochloride.

reactant | hydrogen | [H][H] | H2
reactant | 8-Acetamido-7-chloroisoquinoline hydrochloride | 1.0 g | Cl.C(C)(=O)NC=1C(=CC=C2C=CN=CC12)Cl
solvent | methanol | CO | CH4O
catalyst | Platinum oxide | 0.1 g | [Pt]=O
product | 8-amino-7-chloro-1,2,3,4-tetrahydroisoquinoline hydrochloride | Cl.NC=1C(=CC=C2CCNCC12)Cl | InChI=1S/C9H11ClN2.ClH/c10-8-2-1-6-3-4-12-5-7(6)9(8)11;/h1-2,12H,3-5,11H2;1H
